US06706709B2
A mixture of 5-tert-butoxycarbonylmethoxy-1H-indole-2-carboxylic acid ethyl ester (2 g, 6 mmol) and trifluoroacetic acid (8 mL) in dichloromethane (8 mL) was stirred at room temperature for 2 hours. The reaction was concentrated to give 1.6 g (97%) of 5-carboxymethoxy-1H-indole-2-carboxylic acid ethyl ester as a light brown solid.

reactant | 5-tert-butoxycarbonylmethoxy-1H-indole-2-carboxylic acid ethyl ester | 6 mmol, 2 g | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OCC(=O)OC(C)(C)C | C17H21NO5
reactant | trifluoroacetic acid | 8 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 5-carboxymethoxy-1H-indole-2-carboxylic acid ethyl ester | 1.6 g, 97% | C(C)OC(=O)C=1NC2=CC=C(C=C2C1)OCC(=O)O | C13H13NO5
